US07105544B2
2-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE
Example 91 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.41–7.27 (m, 7H), 7.09 (d, 1H, J=8.0 Hz), 6.59 (br s, 1H), 3.34 (dd, 2H, J=6.4, 12.0 Hz), 2.93 (d, 2H, J=11.6 Hz), 2.64 (m, 1H), 2.54 (m, 1H), 2.37 (t, 2H, J=6.4 Hz), 2.28 (s, 3H), 1.98 (t, 2H, J=12.4 Hz), 1.71–1.64 (m, 4H), 1.59 (s, 6H), 1.61–1.55 (m, 2H), 1.28 (d, 6H, J=6.8 Hz); ESMS m/e: 498.3 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 2-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C)(C)C | C29H40ClN3O2
